US07678795B2
3-(4-Fluoro-2-trifluoromethyl-phenyl)-6,6-dimethyl-6,7-dihydro-5H-cyclopenta[c]pyridazine
light yellow oil. MS (ESI): 311.0 (MH+). Prepared from 4,4-dimethyl-cyclopentane-1,2-dione, [2-(4-Fluoro-2-trifluoromethyl-phenyl)-2-oxo-ethyl]-phosphonic acid dimethyl ester, hydrazine monohydrate.

reactant | 4,4-dimethyl-cyclopentane-1,2-dione | CC1(CC(C(C1)=O)=O)C | C7H10O2
reactant | [2-(4-Fluoro-2-trifluoromethyl-phenyl)-2-oxo-ethyl]-phosphonic acid dimethyl ester | COP(OC)(=O)CC(=O)C1=C(C=C(C=C1)F)C(F)(F)F | C11H11F4O4P
reactant | hydrazine monohydrate | O.NN
product | 3-(4-Fluoro-2-trifluoromethyl-phenyl)-6,6-dimethyl-6,7-dihydro-5H-cyclopenta[c]pyridazine | FC1=CC(=C(C=C1)C1=CC2=C(N=N1)CC(C2)(C)C)C(F)(F)F | C16H14F4N2
